US07709481B2
To a solution of 5.0 g 4-Methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazole-5-carbaldehyde (derived from [4-Methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-methanol according to the method described for 4-Methyl-2-(trans-1,4-trifluoromethyl-cyclohexyl)-thiazole-5-carbaldehyde) and 4.33 g 3-bromo-3,3-difluorpropene in 25 ml dimethylformamide. 2.11 g Indium were added and the resulting suspension was stirred in an ultrasonic bath for three hours. Then 20 ml 1N HCL were added and the mixture stirred at room temperature for thirty minutes. The mixture was extracted three times with portions of 50 ml ethyl acetate. The combined organic layers were dried over MgSO4. The solvent was evaporated in vacuo. The resulting residue was purified by reversed phase HPLC to obtain 4.67 g 2,2-Difluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-but-3-en-1-ol as a colorless lyophilisate.

reactant | 4-Methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazole-5-carbaldehyde | 5.0 g | CC=1N=C(SC1C=O)C=1C=NC(=CC1)C(F)(F)F | C11H7F3N2OS
reactant | [4-Methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-methanol | CC=1N=C(SC1CO)C=1C=NC(=CC1)C(F)(F)F | C11H9F3N2OS
reactant | 3-bromo-3,3-difluorpropene | 4.33 g | BrC(C=C)(F)F | C3H3BrF2
reactant | Indium | 2.11 g | [In] | In
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,2-Difluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-but-3-en-1-ol | 4.67 g | FC(C(O)C1=C(N=C(S1)C=1C=NC(=CC1)C(F)(F)F)C)(C=C)F | C14H11F5N2OS
